US07851493B2
To a solution of 300 mg of 3-{4-[4-(3-hydroxy-propyl)-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-methoxy-phenyl}-4H-[1,2,4]oxadiazol-5-one in 15 mL of dichloromethane was added 1.2 mL of triethylamine and 217 mg of methanesulfonic anhydride. The resulting mixture was stirred at room temperature for 1 hour. A saturated aqueous solution of ammonium chloride was added. The organic layer was separated and the aqueous layer extracted three times with dichloromethane. The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated under reduced pressure to give 228 mg of methanesulfonic acid 3-[5-[3-methoxy-4-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-phenoxymethyl]-2-(4-trifluoromethyl-phenyl)-thiazol-4-yl]-propyl ester which was used in the next step without further purification.

reactant | 3-{4-[4-(3-hydroxy-propyl)-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-methoxy-phenyl}-4H-[1,2,4]oxadiazol-5-one | 300 mg | OCCCC=1N=C(SC1COC1=CC(=C(C=C1)C1=NOC(N1)=O)OC)C1=CC=C(C=C1)C(F)(F)F | C23H20F3N3O5S
reactant | triethylamine | 1.2 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonic anhydride | 217 mg | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | methanesulfonic acid 3-[5-[3-methoxy-4-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-phenoxymethyl]-2-(4-trifluoromethyl-phenyl)-thiazol-4-yl]-propyl ester | 228 mg | COC=1C=C(OCC2=C(N=C(S2)C2=CC=C(C=C2)C(F)(F)F)CCCOS(=O)(=O)C)C=CC1C1=NOC(N1)=O | C24H22F3N3O7S2
